US05646308
To a mixture of 80 mg of 6-nitrospiro[2H-1-benzopyran-2,4'-tetrahydrothiopyran]-4-carboxylic acid and 7 ml of tetrahydrofuran was added 80 mg of 1,1'-carbonyldiimidazole with stirring under ice-cooling and the mixture was stirred for 1 hour. 0.7 ml of 40% methylamine (methanol solution) was added therein and the mixture was stirred under ice-cooling for 1 hour and then at room temperature for 20 hours. An aqueous potassium carbonate solution was added therein and the reaction mixture was extracted with methylene chloride. An organic layer was washed with water and dried, and the solvent was distilled. The residue was purified according to silica gel column chromatography (developing solution, MeOH:CH2Cl2 =1:99) and further recrystallized by a mixed solvent of ethyl acetate and hexane to obtain 28 mg of N-methyl-6-nitrospiro[2H-1-benzopyran-2,4'-tetrahydrothiopyran]-4-carboxamide with a melting point of 208°-209° C.

reactant | 6-nitrospiro[2H-1-benzopyran-2,4'-tetrahydrothiopyran]-4-carboxylic acid | 80 mg | [N+](=O)([O-])C=1C=CC2=C(C(=CC3(CCSCC3)O2)C(=O)O)C1 | C14H13NO5S
reactant | 1,1'-carbonyldiimidazole | 80 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylamine | 0.7 ml | CN | CH5N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | N-methyl-6-nitrospiro[2H-1-benzopyran-2,4'-tetrahydrothiopyran]-4-carboxamide | 28 mg | CNC(=O)C1=CC2(CCSCC2)OC2=C1C=C(C=C2)[N+](=O)[O-] | C15H16N2O4S
